US04904667
6,7-Dimethoxy-1H-1,2,4-thiadiazolo[3,4-b]quinazolin-5-one-2,2-dioxide.
To a stirred solution of 5,6-dimethoxyisatoic anhydride (8.93 g, 40 mmol) and S-methyl-N-(chloromethanesulfonyl)isothiourea (90% pure, 9.73 g, 44 mmol) in N-methyl-2-pyrrolidinone (50 ml) under nitrogen is added sodium hydride (1.65 g of 60% dispersion in oil, 41 mmol). After 15 min at room temperature, the mixture is stirred at 80° C. for 18 hr, then cooled and poured into 0.5N aqueous hydrochloric acid (150 ml). The precipitate is collected by filtration, and washed with water, then with ether. Recrystallization from DMF containing 5% water provides the title compound as a tan solid, mp >300° C. (2.55 g, 21%).

reactant | 5,6-dimethoxyisatoic anhydride | 40 mmol, 8.93 g | COC1=CC=C2C(C(=O)OC(N2)=O)=C1OC | C10H9NO5
reactant | S-methyl-N-(chloromethanesulfonyl)isothiourea | 44 mmol, 9.73 g | CSC(NS(=O)(=O)CCl)=N | C3H7ClN2O2S2
reactant | sodium hydride | 41 mmol, 1.65 g | [H-].[Na+]
reactant | hydrochloric acid | 0.5N, 150 ml | Cl | ClH
reactant | N-methyl-2-pyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 6,7-Dimethoxy-1H-1,2,4-thiadiazolo[3,4-b]quinazolin-5-one-2,2-dioxide | COC1=C2C(N3C(=NC2=CC=C1OC)NS(C3)(=O)=O)=O | C11H11N3O5S
